US08669266B2
(iv) 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-7-methyl-quinoline-2-carbonyl)-amino]-3-tert-butoxycarbonyl-propionyl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 3 g of 4-{(S)-3-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester and 1.5 g of Bromo-acetic acid benzyl ester in 38 ml of DMF, 2 g of cesium carbonate was added. The reaction mixture was stirred for 4 h at RT, diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 2.8 g.

reactant | 4-{(S)-3-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester | 3 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C26H34N4O7
reactant | Bromo-acetic acid benzyl ester | 1.5 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | cesium carbonate | 2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 38 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-7-methyl-quinoline-2-carbonyl)-amino]-3-tert-butoxycarbonyl-propionyl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C)=O | C35H42N4O9
